US07592337B2
To a flask containing 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine (150 mg, 0.5 mmol), tris(dibenzylideneacetone)dipalladium(0) (26 mg, 0.025 mmol), 2-(dicyclohexylphosphino)biphenyl (18 mg, 0.05 mmol), and sodium t-butoxide (67 mg, 0.7 mmol), degassed toluene was added and the resulting mixture was stirred under nitrogen until homogeneity. Morpholine (53 μL, 0.6 mmol) was added to the mixture via syringe, and the reaction was heated to 80° C. The solution was then stirred for 18 h under nitrogen. The reaction mixture was quenched with water (20 mL), extracted with EtOAc (3×20 mL), and washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was chromatographed on silica gel eluting with 40% EtOAc in hexanes to afford a yellow solid. This was dissolved in anhydrous THF (10 mL) and HCl (1.5equiv) in ether was added, the precipitate was filtered to afford 2-[2-(4-morpholin-3-ylphenyl)-2H-tetrazol-5-yl]pyridine as a yellow solid. 1H NMR ((CD3)2SO, 300 MHz) δ 8.82 (d, 1H), 8.28 (d, 1H), 8.08 (dt, 1H), 7.51-7.68 (m, 4H), 7.23 (m, 1H), 3.77 (m, 4H), 3.25 (m, 4H). MS (ESI) MS 309 (M+H)+.

reactant | 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine | 0.5 mmol, 150 mg | BrC1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8BrN5
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.05 mmol, 18 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | sodium t-butoxide | 0.7 mmol, 67 mg | CC(C)([O-])C.[Na+]
reactant | Morpholine | 0.6 mmol, 53 μL | N1CCOCC1 | C4H9NO
reactant | HCl | 1.5equiv | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.025 mmol, 26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-[2-(4-morpholin-3-ylphenyl)-2H-tetrazol-5-yl]pyridine | N1C(COCC1)C1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C16H16N6O
